US08084448B2
B. 1-Iodomethyl-2-methoxymethylbenzene
To a solution of imidazole (338 mg, 4.98 mmol) and triphenylphosphine (1.3 g, 4.98 mmol) in methylene chloride (10 mL) is added iodine (1.26 g, 4.98 mmol) in portions. The mixture is stirred at RT for 45 min then a solution of (2-methoxymethylphenyl)-methanol (630 mg, 4.14 mmol) in methylene chloride (3 mL) is added dropwise and stirring is continued for 3 h. The mixture is concentrated and the insoluble material is filtered. The filtrate is evaporated and the residue is purified by column chromatography using a gradient of 0-50% EtOAc/hexane as eluent to give the title compound.

reactant | imidazole | 4.98 mmol, 338 mg | N1C=NC=C1 | C3H4N2
reactant | triphenylphosphine | 4.98 mmol, 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 4.98 mmol, 1.26 g | II | I2
reactant | (2-methoxymethylphenyl)-methanol | 4.14 mmol, 630 mg | COCC1=C(C=CC=C1)CO | C9H12O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-Iodomethyl-2-methoxymethylbenzene | ICC1=C(C=CC=C1)COC | C9H11IO
